US04259504
5-(p-Aminophenyl)-1-(p-fluorophenyl)-1H-1,2,4-triazole
A mixture of 9.0 g. of 1-(p-fluorophenyl)-5-(p-nitrophenyl)-1H-1,2,4-triazole, 18.0 g. of sodium hydrosulfite, 40 ml. of water and 150 ml. of acetone is stirred at room temperature for 1/2 hour. The acetone is removed in vacuo and the residue extracted with hot chloroform. Cooling produces 1.1 g. of the desired product as off-white crystals, mp. 128°-130° C.

reactant | 1-(p-fluorophenyl)-5-(p-nitrophenyl)-1H-1,2,4-triazole | FC1=CC=C(C=C1)N1N=CN=C1C1=CC=C(C=C1)[N+](=O)[O-] | C14H9FN4O2
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 5-(p-Aminophenyl)-1-(p-fluorophenyl)-1H-1,2,4-triazole | NC1=CC=C(C=C1)C1=NC=NN1C1=CC=C(C=C1)F | C14H11FN4
